US09212348B2
Synthesis of 4-bromo-3-isopropyl-1-(2-methyl-1-phenylpropan-2-yl)-1H-pyrazol-5-yl benzoate
4-Bromo-3-isopropyl-1-(2-methyl-1-phenylpropan-2-yl)-1H-pyrazol-5(4H)-one (3.00 g, 8.90 mmol) was dissolved in 39 mL of tetrahydrofuran and cooled with ice to 0° C., and after dropwise addition of 1.80 g (17.8 mmol) of triethylamine and 1.38 g (9.82 mmol) of benzoyl chloride, stirred at room temperature for 3 hours under a nitrogen atmosphere. The reaction was quenched with distilled water, and the reaction solution was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (silica gel 12 g, ethyl acetate:hexane=1:20) to give 3.34 g of the desired product as a yellow oil.

reactant | 4-Bromo-3-isopropyl-1-(2-methyl-1-phenylpropan-2-yl)-1H-pyrazol-5(4H)-one | 8.90 mmol, 3.00 g | BrC1C(=NN(C1=O)C(CC1=CC=CC=C1)(C)C)C(C)C | C16H21BrN2O
reactant | triethylamine | 17.8 mmol, 1.80 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 9.82 mmol, 1.38 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 39 mL | O1CCCC1 | C4H8O
product | 4-bromo-3-isopropyl-1-(2-methyl-1-phenylpropan-2-yl)-1H-pyrazol-5-yl benzoate | 3.34 g | C(C1=CC=CC=C1)(=O)OC1=C(C(=NN1C(CC1=CC=CC=C1)(C)C)C(C)C)Br | C23H25BrN2O2
